US06358972B1
5-(Benzimidazol-2-yl)-3-(1-Methylpiperidin-4-yl)-1H-Indole
The title compound was prepared by the procedure of Example 14, beginning with 3-(1-methylpiperidin-4-yl)-1H-indole-5-boronic acid (0.250 g, 0.97 mmol), 2-chlorobenzimidazole (0.140 g, 0.92 mmol), Pd(dppf)Cl2 CH2Cl2 (0.023 g, 0.028 mmol), and 2M aqueous sodium carbonate solution (2 mL) in 6 mL of tetrahydrofuran to give 0.130 g (43%) of the title compound as an amorphous tan solid. FDMS m/e=330 (M+). EA calculated for C21H22N4.¾ H2O C, 73.33; H, 6.89; N, 16.29. Found: C, 73.79; H, 6.66; N, 16.08.

reactant | 3-(1-methylpiperidin-4-yl)-1H-indole-5-boronic acid | 0.97 mmol, 0.250 g | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)B(O)O | C14H19BN2O2
reactant | 2-chlorobenzimidazole | 0.92 mmol, 0.140 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
catalyst | Pd(dppf)Cl2 CH2Cl2 | 0.028 mmol, 0.023 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-(Benzimidazol-2-yl)-3-(1-Methylpiperidin-4-yl)-1H-Indole | 0.130 g, 43% | N1=C(NC2=C1C=CC=C2)C=2C=C1C(=CNC1=CC2)C2CCN(CC2)C | C21H22N4
